US06743794B2
(2,2-dimethyl-propylamino)-pyridin-3-yl-acetic Acid Ethyl Ester
Bromopyridin-3-yl-acetic acid ethyl ester (2.54 g; 10.2 mmol), prepared in a manner similar to preparation 340, was reacted in refluxing CH2Cl2, overnight with neopentylamine (4.83 mL; 41.0 mmol; 4 equiv) and Et3N (5.8 mL; 41.0 mmol; 4 equiv). The reaction solution was evaporated to dryness, dissolved in CH2Cl2, washed five times with saturated NaHCO3(aq), washed once with saturated NaCl (aq), dried with Na2SO4, filtered, and concentrated in vacuo. The resulting brown oil was purified with silica gel chromatography in a 3×25 cm glass column using a 0.5% methanol/chloroform (v/v) mobile phase. A second column purification with 100% chloroform followed by 1% methanol/chloroform (v/v) produced pure product as a yellow oil (1.0 g; 40% yield).

reactant | Bromopyridin-3-yl-acetic acid ethyl ester | 10.2 mmol, 2.54 g | C(C)OC(C(C=1C=NC=CC1)Br)=O | C9H10BrNO2
reactant | neopentylamine | 41.0 mmol, 4.83 mL, 4 equiv | C(C(C)(C)C)N | C5H13N
reactant | Et3N | 41.0 mmol, 5.8 mL, 4 equiv | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2,2-dimethyl-propylamino)-pyridin-3-yl-acetic Acid Ethyl Ester | 1.0 g, 40% yield | C(C)OC(C(C=1C=NC=CC1)NCC(C)(C)C)=O | C14H22N2O2
